US04252817
5-Chloro-4-cyclohexyl-2-hydroxyphenylacetic acid
3.54 g of N-chlorosuccinimide and 5.25 g of succinimide are added to a solution of 6.2 g of 4-cyclohexyl-2-hydroxy-phenylacetic acid in 200 ml of dry methylene chloride and the mixture left to react for 5 days at room temperature. The clear reaction solution is washed twice with 1 N hydrochloric acid and once with water, dried and evaporated. The white crystalline residue can either be worked up directly or purified by recrystallization from methylene chloride/petroleum ether.

reactant | N-chlorosuccinimide | 3.54 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | succinimide | 5.25 g | C1(CCC(N1)=O)=O | C4H5NO2
reactant | 4-cyclohexyl-2-hydroxy-phenylacetic acid | 6.2 g | C1(CCCCC1)C1=CC(=C(C=C1)CC(=O)O)O | C14H18O3
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 5-Chloro-4-cyclohexyl-2-hydroxyphenylacetic acid | ClC=1C(=CC(=C(C1)CC(=O)O)O)C1CCCCC1 | C14H17ClO3
